US08912186B2
By a procedure similar to that of example 1.59.2, starting from 1-(4-iodophenyl)-3-phenylprop-2-en-1-one and dimethyl malonate, dimethyl 2-(3-(4-iodophenyl)-3-oxo-1-phenylpropyl)malonate was obtained as yellowish solid.

reactant | 1-(4-iodophenyl)-3-phenylprop-2-en-1-one | IC1=CC=C(C=C1)C(C=CC1=CC=CC=C1)=O | C15H11IO
reactant | dimethyl malonate | C(CC(=O)OC)(=O)OC | C5H8O4
product | dimethyl 2-(3-(4-iodophenyl)-3-oxo-1-phenylpropyl)malonate | IC1=CC=C(C=C1)C(CC(C1=CC=CC=C1)C(C(=O)OC)C(=O)OC)=O | C20H19IO5
